US06509328B1
(4-Isopropyl-2-nitro-phenyl)-carbamic Acid tert.-Butyl Ester
Prepared from 4-isopropyl-2-nitroaniline (CAS-No. [63649-64-9]) by reaction with Boc2O and cat. DMAP in THF, followed by treatment with TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow oil (14.1 g).

reactant | 4-isopropyl-2-nitroaniline | C(C)(C)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C9H12N2O2
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-Isopropyl-2-nitro-phenyl)-carbamic Acid tert.-Butyl Ester | 14.1 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(C)C)[N+](=O)[O-])=O | C14H20N2O4
